US06316482B1
To a solution of ethyl 2-chloromethyl-1H-benzimidazole-4-carboxylate (250 mg) in dichloroethane (2.5 ml) was added morpholine (183 mg) under ice bath cooling and the reaction mixture was stirred at ambient temperature for 15 hours. To the reaction mixture was added morpholine (91 mg) and stirred at 80° C. for 6 hours. After the reaction mixture was concentrated in vacuo, the residue was diluted with chloroform and saturated sodium hydrogen carbonate aqueous solution. The organic layer was separated and washed with brine. The solution was dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (methanol:chloroform=1:9) to give ethyl-2-morpholinomethyl-1H-benzimidazole-4-carboxylate (219 mg).

reactant | ethyl 2-chloromethyl-1H-benzimidazole-4-carboxylate | 250 mg | ClCC1=NC2=C(N1)C=CC=C2C(=O)OCC | C11H11ClN2O2
reactant | morpholine | 183 mg | N1CCOCC1 | C4H9NO
reactant | morpholine | 91 mg | N1CCOCC1 | C4H9NO
solvent | dichloroethane | 2.5 ml | ClC(C)Cl | C2H4Cl2
product | ethyl-2-morpholinomethyl-1H-benzimidazole-4-carboxylate | 219 mg | C(C)OC(=O)C1=CC=CC=2NC(=NC21)CN2CCOCC2 | C15H19N3O3
